US05736534
7-Butoxy-4-(6-chloro-2,3-dihydro-indol-1-yl)-6-methoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 43% yield from 6-chloro-indoline (1.1 eq.) and 7-butoxy-4-chloro-6-methoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 126°-132° C.; GC-MS: 383 (M+); anal. RP18-HPLC RT: 6.22 min.).

reactant | 6-chloro-indoline | 1.1 eq. | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 7-butoxy-4-chloro-6-methoxy-quinazoline | 1.0 eq | C(CCC)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C13H15ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 7-Butoxy-4-(6-chloro-2,3-dihydro-indol-1-yl)-6-methoxy-quinazoline | 43% yield | C(CCC)OC1=C(C=C2C(=NC=NC2=C1)N1CCC2=CC=C(C=C12)Cl)OC | C21H22ClN3O2
